Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Peroneal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ F with HTN/HLD, chronic pain, TIA who presents from 
urgent care with peroneal pain and hyponatremia.

She reports weeks of off-and-on peroneal pressure, no vaginal 
symptoms, no drainage, no fevers/chills, unrelated to stooling. 
Today, the pressure became so strong that she went to her PCP 
who drew labs and referred to urgent care for ultrasound. 
Transvag ultrasound noted fibroids, CT abd/pelvis confirmed the 
same, otherwise noted acute cystitis without pyelonephritis. 
Labs resulted Na 120, UA c/w UTI. She was given 1L NS and Na 
increased to 122. She was transferred to ___ ED for further 
workup. 

She reports drinking 1 gallon of water daily in effort to clear 
her system. She endorses frequent urniartion lately, no pain 
with voiding. No back pain. 

In the ED:
T 98.3  75 125/63 18 100% RA 
WBC 14
Na 122, Cr wnl
Lactate 1.4
She was given ceftriaxone 1gm x1 and admitted.

On arrival to the floor, she is feeling generally well, peroneal 
pressure is improved.

ROS
Per hpi, otherwise rest of 10pt review negative.

 
Past Medical History:
HYPERLIPIDEMIA 
HEADACHE 
HYPERTENSION 
MULTIPLE BRAIN ANEURYSM S/P CLIPPING 
FIBROMYALGIA 
RAYNAUD'S PHENOMENON 
CHRONIC OBSTRUCTIVE PULMONARY DISEASE 
ASTHMA 
H/O POSSIBLE TIA thought due to paradoxical embolism
H/O CHRONIC PAIN SYNDROME 

SURGICAL:
CERVICAL RADICULOPATHY C5-C7 CERVICAL ANTERIOR DISECTOMY AND 
FUSION ___ 
BRAIN SURGERY X2- ANUERYSMAL CLIPPING ___ 
RIGHT OVARIAN CYSTECTOMY 
LEFT BREAST CYST REMOVED 
PERFORATAED TYMPANIC MEMBRANE REPIAR 
ARTERIAL EMOLIZATION OF CEREBRAL ARTERY 
EXPLORATORY LAPAROTOMY FOR DUDODENAL ULCERATION 

 
Social History:
___
Family History:
No history of early MI
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
T 98.5 107/61 89 18 97 RA 
GEN: Well appearing stated age with coarse features
HEENT: Moist membranes, anicteric
NECK: No masses
HEART: RRR, no murmurs
LUNGS: CTA bilateallly, good air movement
ABD: Soft, nontender, no rebound
GU: Deferred
EXT: Warm, no edema
NEURO: Alert, oriented x3, fluent speech
PSYCH: Full affect, mood appropriate

Discharge exam: 
Afebrile SBPs 100-110 RR 18 98 RA
GEN: Well appearing stated age no distress
HEENT: Moist membranes, anicteric
NECK: No masses
HEART: RRR, no murmurs
LUNGS: CTA bilaterally, good air movement
ABD: Soft, nontender, no rebound
GU: Deferred
EXT: Warm, no edema
NEURO: Alert, oriented x3, fluent speech
PSYCH: Full affect, mood appropriate
 
Pertinent Results:
ADMISSION LABS:

___ 10:55AM BLOOD WBC-14.2*# RBC-3.68* Hgb-11.6 Hct-32.4* 
MCV-88 MCH-31.5 MCHC-35.8 RDW-11.5 RDWSD-37.0 Plt ___
___ 10:55AM BLOOD UreaN-7 Creat-0.6 Na-120* K-4.7 Cl-82* 
HCO3-25 AnGap-18
___ 02:00PM BLOOD Glucose-95 UreaN-6 Creat-0.5 Na-122* 
K-4.1 Cl-91* HCO3-23 AnGap-12
___ 02:00PM BLOOD TotBili-0.5 DirBili-<0.2 IndBili-0.5
___ 02:00PM BLOOD Calcium-8.7 Phos-3.5 Mg-1.9
___ 02:00PM BLOOD Osmolal-271*
___ 09:09PM BLOOD Lactate-1.4
___ 11:50AM URINE ___ WBC->50 Bacteri-MANY Yeast-NONE 
___ 11:50AM URINE Blood-SM Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-0.2 pH-6.0 Leuks-LG

MICRO
___ 11:30 am URINE
URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

IMAGING:
Contrast CT abd/pelvis ___
1. Findings suggestive of acute cystitis.  No signs of 
pyelonephritis. 
2. Normal appendix. 
3. Fibroid uterus. 

Transvaginal ultrasound ___
Uterine fibroids, 1 of which arises from the right uterine wall 
corresponding  with site of pain.  Nonvisualization of the 
ovaries, no free-fluid. 

Discharge labs: 

___ 06:35AM BLOOD Glucose-110* UreaN-4* Creat-0.6 Na-136 
K-3.9 Cl-99 HCO3-24 AnGap-17
 
Brief Hospital Course:
This is a ___ F with HTN/HLD, chronic pain, TIA who was admitted 
from urgent care with UTI and hyponatremia.

# UTI
# Peroneal pressure
I think pressure is related to acute cystitis with mild 
leukocytosis, lactate wnl and imaging otherwise unremarkable 
without evidence of pyelo, no vaginal symptoms. Pt's symptoms 
resolved rapidly after starting treatment for UTI. Will continue 
PO Ciprofloxacin 500mg BID for 4 more days to complete a total 
of 5 days antibiotic therapy. Will follow up on culture results 
and call pt if antibiotics need to be adjusted. 

# Hyponatremia: Likely from primary polydipsia in the setting of 
excessive water intake for self treatment of suspected UTI. Her 
sodium corrected rapidly from 120 -> 122 -> 136 on ___. Given 
that this was likely hyperacute hyponatremia from excessive free 
water intake, we were not concerned about her rate of 
correction. By ___ she was felt safe for discharge and we 
recommended avoiding intake of >1L free water in a 24 hour 
period. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 100 mg PO QHS 
2. Pregabalin 100 mg PO BID 
3. Verapamil SR 240 mg PO QHS 
4. Docusate Sodium 100 mg PO BID 
5. Atorvastatin 20 mg PO QPM 
6. Montelukast 10 mg PO DAILY 
7. Omeprazole 20 mg PO BID 
8. Aspirin 81 mg PO DAILY 
9. Loratadine 10 mg PO DAILY:PRN allergies 
10. DULoxetine 80 mg PO DAILY 
11. Nortriptyline 50 mg PO QHS 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 4 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*8 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 20 mg PO QPM  
4.  Docusate Sodium 100 mg PO BID  
5.  DULoxetine 80 mg PO DAILY  
6.  Loratadine 10 mg PO DAILY:PRN allergies  
7.  Losartan Potassium 100 mg PO QHS  
8.  Montelukast 10 mg PO DAILY  
9.  Nortriptyline 50 mg PO QHS  
10.  Omeprazole 20 mg PO BID  
11.  Pregabalin 100 mg PO BID  
12.  Verapamil SR 240 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
UTI
Hyponatremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital with a urinary tract infection 
and a condition called Hyponatremia, caused by your blood sodium 
levels being too low. This was likely due to excessive intake of 
free water. Your sodium corrected rapidly and was back to normal 
today. After starting treatment for UTI, your symptoms of pelvic 
pain improved. You will be discharged home to complete a 5 day 
course of treatment for UTI. 
 
Followup Instructions:
___